US06977262B2
A solution of 4-(2-chlorophenyl)-5-cyano-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine (22.9 g), di-t-butyl dicarbonate (19.4 g) and dimethylaminopyridine (0.5 g) in tetrahydrofuran (200 ml) was stirred at room temperature for 30 minutes. The reaction mixture was ice-cooled and the precipitated crystals were collected by filtration to give 2-(t-butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine (21.8 g) as white crystals. 2-(t-Butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine (5.0 g), N-bromosuccinimide (2.5 g) and azobisisobutyronitrile (66 mg) were suspended in benzene (50 ml) and the suspension was stirred for 1 hour. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (2:1)) and crystallized from ethyl acetate to give 6-bromomethyl-2-(t-butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine as white crystals. To a suspension of sodium hydride (32 mg) in DMF (10 ml) was added morpholine (70 μl) and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added 6-bromomethyl-2-(t-butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (0.36 g) and the mixture was stirred under ice-cooling for 1 hour. To the reaction mixture was added water, and the precipitated crystals were collected by filtration and washed with hexane to give 2-(t-butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-6-(morpholin-4-yl)methyl-2H-pyrazolo[3,4-b]pyridine (450 mg) as white crystals. A solution of 2-(t-butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-6-(morpholin-4-yl)methyl-2H-pyrazolo[3,4-b]pyridine (440 mg) in trifluoroacetic acid (5 ml) was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure and 4M hydrochloric acid-dioxane solution was added. The precipitated crystals were collected by filtration and washed with ethyl acetate to give the title compound (250 mg) as pale-yellow crystals.

reactant | 2-(t-Butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine | 5.0 g | C(C)(C)(C)OC(=O)N1N=C2NC(=C(C(C2=C1)C1=C(C=CC=C1)Cl)C#N)C | C19H19ClN4O2
reactant | N-bromosuccinimide | 2.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 66 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 6-bromomethyl-2-(t-butoxycarbonyl)-4-(2-chlorophenyl)-5-cyano-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | BrCC1=C(C(C=2C(N1)=NN(C2)C(=O)OC(C)(C)C)C2=C(C=CC=C2)Cl)C#N | C19H18BrClN4O2
